US04551448
(e) 2-Chloro-4-(2-bromo-1,1,2-trifluoroethoxy)-phenol
12.2 g of 4-(2-bromo-1,1,2-trifluoroethoxy)-phenol and 5 drops of diphenyl sulfide were dissolved in 30 ml of glacial acetic acid, and 6.1 g of sulfuryl chloride were added, a little at a time, at 25° C. After 3 hours at 25° C., the volatile components were removed, the residue was taken up with 300 ml of methylene chloride, and the solution was washed with 100 ml of 10% strength NaHCO3 solution and 100 ml of water, dried over Na2SO4 and distilled at 82° C./0.3 mbar. Yield: 12.6 g.

reactant | 4-(2-bromo-1,1,2-trifluoroethoxy)-phenol | 12.2 g | BrC(C(OC1=CC=C(C=C1)O)(F)F)F | C8H6BrF3O2
reactant | sulfuryl chloride | 6.1 g | S(=O)(=O)(Cl)Cl | Cl2O2S
catalyst | diphenyl sulfide | 5 drops | C1(=CC=CC=C1)SC1=CC=CC=C1 | C12H10S
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 2-Chloro-4-(2-bromo-1,1,2-trifluoroethoxy)-phenol | ClC1=C(C=CC(=C1)OC(C(F)Br)(F)F)O | C8H5BrClF3O2
